US07550484B2
COMPOUND 129: 1′-[2-(1-Benzyl-1H-imidazol-4-yl)-ethyl]-3,3″-dimethyl-1′,2′,3′,4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine
To a solution of 1′-[2-(3H-imidazol-4-yl)-ethyl]-3,3″-dimethyl-1′,2′,3′,4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine (191 mg, 0.53 mmol) in THF (5 mL) at 0° C. was added NaH (60%, 8 mg, 0.20 mmol). After stirring at 0° C. for 30 min, benzyl bromide (21 μL, 0.18 mmol) was added and the resulting mixture was stirred overnight at room temperature. The next morning the mixture was concentrated under reduced pressure to afford a brown residue. Purification by radial chromatography on silica gel (1 mm plate; using CH2Cl2/MeOH/NH4OH; 50:1:1→10:1:1) afforded the product as a yellow oil (39 mg, 48%). 1H NMR (CDCl3) δ 1.57-1.70 (m, 3H), 1.93-2.16 (m, 5H), 2.46 (br s, 8H), 4.12 (d, 2H, J=9.0 Hz), 4.36 (s, 2H, 4.83 (s, 2H), 5.94(s, 1H), 6.99 (br s, 4H), 7.17 (s, 1H), 7.28 (s, 3H), 7.36 (d, 2H, J=9.0 Hz), 8.42 (s, 2H). 13C NMR (CDCl3) δ 19.23, 23.41, 25.39, 32.47, 50.23, 50.97, 62.04, 115.12, 122.07, 127.64, 128.49, 129.23, 136.52, 138.84, 147.33, 160.82. ES-MS m/z 452 [M+H]+. Anal. Calcd. for C29H33N5.0.5CH2Cl2: C, 71.71; H, 6.94; N, 14,17. Found: C, 71.78; H, 7.23; N, 14.10.

reactant | 1′-[2-(3H-imidazol-4-yl)-ethyl]-3,3″-dimethyl-1′,2′,3′,4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine | 0.53 mmol, 191 mg | N1=CNC(=C1)CCN1C(CCCC1C1=NC=CC=C1C)C1=NC=CC=C1C | C22H27N5
reactant | NaH | 0.20 mmol, 8 mg | [H-].[Na+]
reactant | benzyl bromide | 0.18 mmol, 21 μL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1′-[2-(1-Benzyl-1H-imidazol-4-yl)-ethyl]-3,3″-dimethyl-1′,2′,3′,4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine | 39 mg, 48% | C(C1=CC=CC=C1)N1C=NC(=C1)CCN1C(CCCC1C1=NC=CC=C1C)C1=NC=CC=C1C | C29H33N5
